US05382590
The procedure is analogous to that described in Example 1, but 3.8 g of 2-(2-amino-N-phenylacetamido)-N-(3,4-difluorophenyl)-N-methylacetamide and 1.4 g of 3-methylphenyl isocyanate are used as the starting material. The crude product obtained is purified by chromatography on 80 g of silica (0.065-0.200 mm) contained in a column 2.5 cm in diameter [eluent: ethyl acetate/cyclohexane (75-25 by volume)], collecting 20 cm3 fractions. Fractions 3 to 8 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from a cyclohexane/ethyl acetate mixture (50-50 by volume), 0.5 g of N-(3,4-difluorophenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 163° C is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-(3,4-difluorophenyl)-N-methylacetamide | 3.8 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C)C1=CC(=C(C=C1)F)F | C17H17F2N3O2
reactant | 3-methylphenyl isocyanate | 1.4 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-(3,4-difluorophenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 0.5 g | FC=1C=C(C=CC1F)N(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C | C25H24F2N4O3
